US06743920B2
N4-(2-Methylpropyl)-6-methyl-2-phenoxypyridin-3,4-diamine
Toluene (150 ml), 5% platinum on carbon (1.55 g), and N-(2-methylpropyl)-6-methyl-3-nitro-2-phenoxypyridin-4-amine (31.00 g) from Part C were placed in a Parr hydrogenation flask at a hydrogen pressure of 345 kPa for 2 hours with shaking. The reaction was monitored by TLC and HPLC. More 5% platinum on carbon (5 g) was added. After 2 hours, another 4 g of 5% platinum on carbon was added and the reaction was continued overnight. The resulting reaction mixture was filtered, and the solvent was removed from the filtrate under reduced pressure. After one hour the resulting brown oil solidified. NMR analysis of the solid (26.37 g) indicated sufficient purity for carrying the product on to the next step.

reactant | N-(2-methylpropyl)-6-methyl-3-nitro-2-phenoxypyridin-4-amine | 31.00 g | CC(CNC1=C(C(=NC(=C1)C)OC1=CC=CC=C1)[N+](=O)[O-])C | C16H19N3O3
reactant | hydrogen | [H][H] | H2
catalyst | platinum on carbon | 1.55 g | [Pt] | Pt
catalyst | platinum on carbon | 5 g | [Pt] | Pt
catalyst | platinum on carbon | 4 g | [Pt] | Pt
solvent | Toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | N4-(2-Methylpropyl)-6-methyl-2-phenoxypyridin-3,4-diamine | CC(CNC1=C(C(=NC(=C1)C)OC1=CC=CC=C1)N)C | C16H21N3O
